US04521604
138.5 g (1.95 moles) of acetaldehyde cyanohydrin were added dropwise to a solution of 176 g (2 moles) of 2,3-diaminobutane in 250 ml of water, with cooling at 25° C. The mixture was then heated at the boil for 8 hours, until no more ammonia was split off. The reaction mixture was then distilled under reduced pressure to give 200 g (72% of theory) of 2,5,6-trimethyl-3-oxo-piperazine of boiling point 123° C./0.5 mbar.

reactant | acetaldehyde cyanohydrin | 1.95 moles, 138.5 g | CC(C#N)O | C3H5NO
reactant | 2,3-diaminobutane | 2 moles, 176 g | NC(C)C(C)N | C4H12N2
reactant | ammonia | N | H3N
reactant | water | 250 ml | O | H2O
product | 2,5,6-trimethyl-3-oxo-piperazine | 200 g, 72% | CC1NC(C(NC1=O)C)C | C7H14N2O
